US08466282B2
Tert-butyl (3S,5R)-3-[({1-[3-(2-acetylhydrazino)-3-oxopropyl]-1H-benzimidazol-2-yl}carbonyl)(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate
tert-Butyl (3S,5R)-3-[{[1-(3-ethoxy-3-oxopropyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (307 mg) was dissolved in ethanol (10 ml), hydrazine monohydrate (243 μl) was added and the mixture was heated under reflux for 6 hr with stirring. The reaction mixture was concentrated, ethyl acetate was added to the residue, and the mixture was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was dissolved in THF (5 ml), and triethylamine (209 μl) was added. The reaction mixture was cooled to 0° C., acetic anhydride (71 μl) was added dropwise and the mixture was stirred at room temperature for 15 hr. The reaction mixture was diluted with aqueous sodium bicarbonate, and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give the object product (292 mg).

reactant | tert-Butyl (3S,5R)-3-[{[1-(3-ethoxy-3-oxopropyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 307 mg | C(C)OC(CCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CC(C)C)=O | C32H47N5O7
reactant | hydrazine monohydrate | 243 μl | O.NN
reactant | ethanol | 10 ml | C(C)O | C2H6O
product | Tert-butyl (3S,5R)-3-[({1-[3-(2-acetylhydrazino)-3-oxopropyl]-1H-benzimidazol-2-yl}carbonyl)(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 292 mg | C(C)(=O)NNC(CCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CC(C)C)=O | C32H47N7O7
